US05473070
This example illustrates a synthesis procedure for 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine (CT1561). The synthesis began by adding a solution of 8-nonene-1-ol (1.50 g, 10.5 mmol) in dichloromethane (100 ml) at 0° C. to methanesulfonyl chloride (1.20 g, 813 μl, 10.5 mmol), followed by triethylamine (1.59 g, 15.8 mmol). After stirring for 1 hr at 0° C., the reaction mixture was allowed to warm to room temperature. The reaction mixture was poured into 100 ml of water and extracted with dichloromethane (3×50 ml). The organic portions were combined, dried with sodium sulfate, and evaporated to give 9-methanesulfonyl-1-nonene as a yellow oil (2.25 g, 97% yield, which was used without further purification.

reactant | 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
reactant | 8-nonene-1-ol | 10.5 mmol, 1.50 g | C(CCCCCCC=C)O | C9H18O
reactant | methanesulfonyl chloride | 10.5 mmol, 813 μl, 1.20 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 15.8 mmol, 1.59 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 9-methanesulfonyl-1-nonene | 97% yield | CS(=O)(=O)CCCCCCCC=C | C10H20O2S
